US04537621
5.3 parts by weight of methyl thioglycolate were added dropwise to a solution of 19.2 parts by weight of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzenesulfenyl chloride in 100 parts by volume of absolute ether at room temperature, the reaction mixture was stirred for a further two hours and then evaporated to dryness under reduced pressure, and the oily residue was crystallized using diisopropyl ether. 25 parts by weight (90% yield) of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrophenyl methoxycarbonylmethyl disulfide of melting point 66°-68° C. were obtained (compound No. 3).

reactant | methyl thioglycolate | C(CS)(=O)OC | C3H6O2S
reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzenesulfenyl chloride | ClC1=C(OC=2C=C(C(=CC2)[N+](=O)[O-])SCl)C=CC(=C1)C(F)(F)F | C13H6Cl2F3NO3S
solvent | ether | CCOCC | C4H10O
product | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrophenyl methoxycarbonylmethyl disulfide | 90% yield | COC(=O)CSSC1=CC(=CC=C1[N+](=O)[O-])OC1=C(C=C(C=C1)C(F)(F)F)Cl | C16H11ClF3NO5S2
